Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lisinopril
 
Attending: ___
 
Chief Complaint:
elevated BP after stopping clonidine  
 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o F with PMHx of HTN, HL, DM, spinal stenosis who presents 
with hypertensive urgency. Pt reports that her cardiologist has 
been weaning her slowly from clonidine and she stopped clonidine 
altogether on ___. Pt noted that her BP was very elevated on 
___ in the 240/140 range (home BP monitor). Pt called her 
cardiologist who recommended that she go directly to the ED. 
Prior to arrival in the ED, pt denied any HA, blurry vision, 
chest pain, palpitations, weakness, numbness. Pt does report 
some intermittent bilateral hand swelling and a feeling as 
though her pulses were "jumping". She did have an episode of 
dyspnea on exertion on ambulation into the ED. After receiving 
nitro in the ED, pt developped a headache.  
.  
On arrival to the ED VS: T-98.8 BP 205/103 HR 66 RR 18 Sat 98%. 
Pt received ASA 325mg, nitropaste, clonidine 0.1mg, tylenol 
1gram, Oxycodone 15mg, Dilaudid 2mg po. On arrival to the floor, 
pt was feeling well, denying any HA, blurry vision, chest pain 
or SOB.  
.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, cough, SOB, 
black stools, red stools, dysuria, constipation, diarrhea. She 
denies recent fevers, chills or rigors. Pt does report 
significant low back pain with minimal ambulation due to spinal 
stenosis. She also reports poor wound healing, but no systems of 
claudication.  
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

 
Past Medical History:
Peripheral Vascular Disease  
Hyperlipidemia  
Type II DM  
Hypertension  
Chronic Kidney Disease  
CAD s/p silent MI in ___ & ___  
s/p PPM in ___ after MI (placed for unclear indications)  

 
Social History:
___
Family History:
Sister who passed away from DMII, CRF
 
Physical Exam:
VS: T- 98.7 BP 144/71 HR 59 RR 18 Sats 95% RA  
Gen: NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa.  
Neck: Supple with JVP of 8-10cm, no carotid bruits  
CV: RRR Gr 3 SEM over LSB that radiates to axilla. No thrills, 
lifts. No S3 or S4 appreciated  
Chest: Resp were unlabored, no accessory muscle use. Scattered 
inspiratory crackles throughout lung ___  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: No c/c/e. No femoral bruits.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas.  
Neuro: CN ___ intact, strength ___ all 4 extremeties, 
cerebellar finger to nose intact bilaterally  
Pulses:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 02:50PM BLOOD WBC-7.6 RBC-4.32 Hgb-13.3 Hct-39.7 MCV-92 
MCH-30.7 MCHC-33.5 RDW-15.2 Plt ___
___ 06:03AM BLOOD WBC-6.8 RBC-4.11* Hgb-12.5 Hct-37.9 
MCV-92 MCH-30.5 MCHC-33.0 RDW-15.0 Plt ___
___ 06:25AM BLOOD WBC-7.0 RBC-3.87* Hgb-11.7* Hct-35.6* 
MCV-92 MCH-30.2 MCHC-32.8 RDW-15.2 Plt ___
___ 02:50PM BLOOD Glucose-316* UreaN-27* Creat-2.0* Na-139 
K-4.2 Cl-100 HCO3-26 AnGap-17
___ 06:25AM BLOOD Glucose-186* UreaN-33* Creat-2.0* Na-140 
K-3.6 Cl-100 HCO3-29 AnGap-15
___ 02:50PM BLOOD CK(CPK)-1361*
___ 02:50PM BLOOD CK-MB-21* MB Indx-1.5
___ 02:50PM BLOOD cTropnT-0.04*
___ 09:40PM BLOOD CK(CPK)-1192*
___ 09:40PM BLOOD CK-MB-17* MB Indx-1.4 cTropnT-0.06*
___ 06:03AM BLOOD CK(CPK)-881*
___ 06:03AM BLOOD CK-MB-13* MB Indx-1.5 cTropnT-0.05*
___ 06:25AM BLOOD CK(CPK)-831*
___ 06:25AM BLOOD CK-MB-15* MB Indx-1.8 cTropnT-0.07*
___ 06:25AM BLOOD Calcium-9.4 Phos-3.8 Mg-2.3
.
___ 
CT head IMPRESSION: No intracranial hemorrhage or other acute 
intracranial abnormality. Right cerebellar encephalomalacia from 
old infarct. 
.
___: EKG Normal sinus rhythm with left ventricular 
hypertrophy and secondary ST-T wave abnormalities. There is 
atrial pacing with probable prior anterior myocardial 
infarction. No previous tracing available for comparison.  
TRACING #1 
.
___: EKG Atrial paced rhythm at 60 beats per minute. Prior 
anteroseptal myocardial infarction. Left ventricular hypertrophy 
with secondary ST-T wave abnormalities. No change from tracing 
#3. 
.
___ CXR PA & Lateral: IMPRESSION: 
1) No pulmonary edema and no pneumonia. 
2) Course reticular interstitial opacities and traction 
bronchiectasis are 
compatible with chronic fibrotic interstitial lung disease 
rather than acute interstitial abnormality. High resolution CT 
is recommended for further characterization as well as 
correlative PFT's if warranted clinically. 

 
Brief Hospital Course:
# Hypertensive Urgency/Emergency: Pt presented with 
significantly elevated BPs in 220/120 range after completing a 
clonidine wean.  Pt was essentially asymptomatic on presentation 
but developped a headache in the ED after receiving a nitrate 
and had a head CT that did not show any evidence of ICH.  BP was 
better controlled on arrival to floor but was very labile on day 
2 of admission. She had an episode of vomiting on day 2 most 
likely related to lisinopril intolerance (prior reaction with 
N/V).  Pt was noted to have a significant CK elevation with 
normal MB fraction that trended down in house, it is unclear if 
this elevation was due to demand ischemia vs myopathy. The 
etiology of the hypertensive urgency was thought most likely due 
to recently cessation of clonidine although pt also reported 
taking OTC diet pills & dietary indiscretions.  In keeping with 
her ___ plan, pt was kept off clonidine.  Pt reported many 
medication intolerances including CCBs, but she was switched 
from Toprol to Labetalol 400mg BID and was started on HCTZ 25mg 
which she tolerated well. Otherwise, she was continued on Lasix 
40mg & Benzapril 20mg.  BP was decently well controlled and 
attending felt that the patient was stable for disharge on this 
regimen with plan for follow up with PCP and cardiologist.
.  
#. CAD: Pt has a h/o CAD but we were unable to obtain additional 
records from ___, PCP denied having any recent records. Pt 
denied any chest pain throughout admission but reported some DOE 
on way into ED. EKG from ED had some non-specific changes 
thought most likely due to LVH and hypertensive urgency. Pt was 
noted to have a significantly increased CK at 1361, MB fraction 
was normal. Troponin was mildly elevated at 0.04 most likely due 
to CRI.  CK's trended down to 830 in house and pt was continued 
on ASA 325mg, Labetalol, Benzapril and Lovastatin.  PCP was 
notified about CK elevation and pt will need a follow up CK at 
her next follow up and may need to stop statin if the CK remains 
elevated.
.  
#. Pump/Abn CXR: Pt had a recent echo showing preserved LVEF at 
65% with impaired relaxation, mild AS, mild MR, and mild to 
moderate TR. Pt was noted to have some scattered crackles on 
exam but was sating well on RA & denied any symptoms of volume 
overload. Official CXR reading described findings more 
consistent with an interstitial process than with pulmonary 
edema and recommended a follow up CT.  Pt did not have any 
infectious symptoms and was scheduled to see Pulmonary in follow 
up as an outpatient.  She was continued on Lasix 40mg daily.  
.  
#. Diabetes: Pt described good BS control at home but last 
HgbA1c>10.   Pt was discharged on her home regimen of Insulin 
with glipizide and was encouraged to discuss blood sugar control 
with her PCP in follow up.
.  
# Elevated CK: CK was notably elevated at 1300 on admission, MB 
fraction remained essentially normal and CK trended down to 830 
spontaneously.  Pt did complain of some intermittent lower 
extremity myopathies and has a lower extremity angiogram 
scheduled for next week.  Extremities remained warm and pulses 
were palpable, the lower extremity pain seemed to resolve 
spontaneously.  Etiology of the CK elevation was unclear, it is 
possible that the CK elevation was related to demand ischemia or 
it may have been due to the statin.  Statin induced myositis was 
thought less likely given that it trended down spontaneously 
while continuing the medication.  PCP was notified about this 
elevation and pt will need follow up labs to trend CK. 

# Chronic Pain meds: Pt's pain was well controlled in house on 
her chronic pain regimen of Oxycodone 15mg q8hr prn and pt was 
discharged on this regimen that was clearly outlined by her PCP 
in their ___ contract.

 
Medications on Admission:
Humulin 70/30 40units qam & 15units qhs  
Cymbalta 40mg  
Aspirin 81mg  
Albuterol  
Lasix 40mg  
Lovastatin 60mg  
Metoprolol 100mg BID  
Glipizide 5mg BID  
Oxycodone 15mg TID prn  
Benzapril 20mg daily  
(clonidine recently stopped)  
-recently started taking Hoodia  

 
Discharge Medications:
1. Duloxetine 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
2. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Puff 
Inhalation Q6H (every 6 hours) as needed.  
3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Lovastatin 60 mg Tablet Sustained Release 24 hr Sig: One (1) 
Tablet Sustained Release 24 hr PO once a day.  
5. Oxycodone 5 mg Tablet Sig: Three (3) Tablet PO Q8H (every 8 
hours) as needed.  
6. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
7. Glipizide 5 mg Tablet Sig: One (1) Tablet PO twice a day.  
8. Benazepril 20 mg Tablet Sig: Two (2) Tablet PO daily ().
Disp:*60 Tablet(s)* Refills:*2*
9. Labetalol 200 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).
Disp:*120 Tablet(s)* Refills:*2*
10. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.
Disp:*30 Tablet(s)* Refills:*2*
11.  Insulin 70/30 40units qam & 15units qhs

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hypertensive Urgency

Secondary:
Hypertension
Hyperlipidemia
Diabetes
Abnormal Chest Xray

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted with hypertensive urgency likely due to 
stopping the clonidine.  We have started you on some new 
medications to help control your blood pressure.  It is 
important that you continue to take these every day and keep 
your follow up appointments as shown below.  

We found some abnormalities on your chest X-ray and we have 
scheduled you to follow up with Pulmonology in ___.  

Please note the following medication changes:
You should stop taking the Clonidine and the Metoprolol.

We have started HCTZ 25mg daily and Labetalol 400mg twice daily. 
We have increased your Benzapril to 40mg daily

If you develop any new chest pain, shortness of breath, severe 
headache, weakness or any other general worsening of condition, 
please call your PCP or come directly to the emergency room. If 
you develop blood sugars above 350, call your doctor or return 
to the emergency room.  
 
Followup Instructions:
___